US07192968B2
cis-1,2-Cycloheptanediol
Cycloheptene (3.85 g) was dissolved in acetonitrile (45 ml) and water (15 ml), and to the solution N-methylmorpholine N-oxide (5.15 g), microcapsulated osmium tetroxide (1 g, containing 10% osmium tetroxide) was added, and the mixture was stirred at 40 to 50° C. for 21 hours. Insoluble microcapsulated osmium tetroxide was removed by filtration, and the insoluble substance was washed with acetonitrile and the filtrate was concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel (hexane:ethyl acetate=1:1) to obtain the title compound (4.77 g) as a colorless solid.

reactant | Cycloheptene | 3.85 g | C1=CCCCCC1 | C7H12
reactant | N-methylmorpholine N-oxide | 5.15 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 15 ml | O | H2O
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
catalyst | osmium tetroxide | 1 g | [Os](=O)(=O)(=O)=O
product | cis-1,2-Cycloheptanediol | 4.77 g | [C@@H]1([C@H](CCCCC1)O)O | C7H14O2
